US06818652B2
A solution of 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoyloxy]-benzoic acid benzyl ester (152 mg, 0.3 mmol) in 10 mL of elthyl acetate with 32 mg of 10% palladium on carbon, was subjected to 1 atm. H2. After 2 h, the mixture was filtered through Celite and silica gel, concentrated under vacuum and purified by flash chromatography (gradient elution, 10-50% ethyl acetate/hexane) to afford 74 mg (59%) of 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoyloxy]-benzoic acid.

reactant | 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoyloxy]-benzoic acid benzyl ester | 0.3 mmol, 152 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OC(C(CCCCC)C1=CC=C2C(CCOC2=C1)(C)C)=O)=O | C32H36O5
solvent | acetate | 10 mL | C(C)(=O)[O-]
catalyst | palladium on carbon | 32 mg | [Pd] | Pd
product | 4-[2-(4,4-dimethyl-chroman-7-yl)-heptanoyloxy]-benzoic acid | 74 mg, 59% | CC1(CCOC2=CC(=CC=C12)C(C(=O)OC1=CC=C(C(=O)O)C=C1)CCCCC)C | C25H30O5
